US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-1-(4-(2-hydroxyethyl)piperazin-1-yl)ethanone (I-35)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.15 g, 0.52 mmol) and 2-(piperazin-1-yl)ethanol (0.068 g, 0.52 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-1-(4-(2-hydroxyethyl)piperazin-1-yl)ethanone as a white solid (0.187 g, 90.3% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.52 mmol, 0.15 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 2-(piperazin-1-yl)ethanol | 0.52 mmol, 0.068 g | N1(CCNCC1)CCO | C6H14N2O
product | 2-(4-(adamantan-1-yl)phenoxy)-1-(4-(2-hydroxyethyl)piperazin-1-yl)ethanone | 0.187 g, 90.3% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)CCO)C=C2 | C24H34N2O3
